US07858630B2
Step 1: trans-(4-Amino-cyclohexyl)-acetic acid
(4-Nitro-phenyl)-acetic acid (50 g, 276 mmol) was added to a stirred solution of 22.08 g of 50% sodium hydroxide solution in 450 mL deionizated water. The clear yellow solution is transferred into a high-pressure autoclave that it charged with 30 g (511 mmol) of water-wet sponge nickel catalyst. The autoclave is sealed, flushed with nitrogen and then pressurized to 115 bar with hydrogen. The reaction mixture is stirred and heated to 125° C. for 48 h. At that time the autoclave is cooled, vented and charged under nitrogen with another 30 g (511 mmol) of the sponge nickel catalyst. The autoclave is flushed again with nitrogen and then pressurized to 115 bar and the vessel is heated to 130° C. while stirring (a maximum pressure of 130 bars is observed). Hydrogenation is continued for 5 days to 130° C. The autoclave is then cooled, vented and flushed with nitrogen and the contents are removed and filtered through filter aid to remove catalyst. After removal of the solvent 74 g of crude material was obtained. The intermediated is used directly in the next step without purification. MS (m/e): 158.3 (M+H+).

reactant | (4-Nitro-phenyl)-acetic acid | 276 mmol, 50 g | [N+](=O)([O-])C1=CC=C(C=C1)CC(=O)O | C8H7NO4
reactant | sodium hydroxide | 22.08 g | [OH-].[Na+]
catalyst | water | 511 mmol, 30 g | O | H2O
catalyst | nickel | 511 mmol, 30 g | [Ni] | Ni
solvent | water | O | H2O
product | trans-(4-Amino-cyclohexyl)-acetic acid | N[C@@H]1CC[C@H](CC1)CC(=O)O | C8H15NO2
